US05387585
5. 4.3 g of 4-fluoro-2-(1H-1,2,4-triazol-3-yl)aniline are dissolved in 200 ml of dioxan and 2.3 ml of absolute pyridine. The solution is stirred under argon and cooled to 12° C. A solution of 2.2 ml of chloroacetyl chloride in 8.0 ml of diethyl ether is then added dropwise thereto within 5 min. at 12° to 15° C. The resulting suspension is stirred at 10° to 12° C. for 15 min. and then treated within 5 min. with 28.8 ml of aqueous 2N sodium hydroxide solution. The mixture is stirred at room temperature overnight. The pH thereby drops to about 9. The mixture is adjusted to pH 8 with 3N hydrochloric acid and the solution is evaporated at about 40° C. in a vacuum. The residue in 150 ml of water and 5 ml of ethyl acetate is stirred at 15° C. for 30 min. The crystals are then filtered off, washed with cold water and dried at 50° C. in a vacuum. 3.78 g of 10-fluoro-5H-[1,2,4]triazolo[1,5-d][1,4]benzodiazepin-6(7H)-one of m.p. 232.5° to 238° C. are obtained. Further substance can be obtained from the aqueous phase by evaporation to dryness in a vacuum, The residue is stirred in 10 ml of trifluoroacetic acid at room temperature overnight. The mixture is evaporated in a vacuum, the residue is taken up in 60 ml of saturated aqueous sodium carbonate solution and 2 ml of ethyl acetate, stirred at room temperature for 1 h. and the crystals are then filtered off. A further 0.5 g of 10-fluoro-5H-[1,2,4]triazolo[1,5-d][1,4]benzo-diazepin-6(7H)-one is obtained.

reactant | 4-fluoro-2-(1H-1,2,4-triazol-3-yl)aniline | 4.3 g | FC1=CC(=C(N)C=C1)C1=NNC=N1 | C8H7FN4
reactant | chloroacetyl chloride | 2.2 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | dioxan | 200 ml | O1CCOCC1 | C4H8O2
solvent | pyridine | 2.3 ml | N1=CC=CC=C1 | C5H5N
solvent | diethyl ether | 8.0 ml | C(C)OCC | C4H10O
product | 10-fluoro-5H-[1,2,4]triazolo[1,5-d][1,4]benzodiazepin-6(7H)-one | 3.78 g | FC=1C=CC2=C(C=3N(CC(N2)=O)N=CN3)C1 | C10H7FN4O
